US07732616B2
Step C: Preparation of methyl 5-fluoro-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate:
To a solution of 2-fluoro-4-(methylthio)aniline (0.236 g, 1.50 mmol) in THF (10 mL) at −78° C. under N2 was added lithium bis(trimethylsilyl)amide (3.42 ml, 3.42 mmol, 1 M solution in hexanes) dropwise. The reaction mixture was stirred for one hour at −78° C. after the addition was complete. Methyl 2-chloro-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.300 g, 1.37 mmol) was then added dropwise as a solution in THF (5 mL) and the reaction mixture was stirred for 30 minutes at −78° C. The reaction was quenched by the addition of 1 M HCl until the pH of the reaction mixture was 5, and then diluted with EtOAc and saturated NaCl. The organic layer was separated, dried (Na2SO4), and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/EtOAc, 15:1) gave pure desired product (0.359 g, 75%) as a white solid.

reactant | 2-fluoro-4-(methylthio)aniline | 1.50 mmol, 0.236 g | FC1=C(N)C=CC(=C1)SC | C7H8FNS
reactant | lithium bis(trimethylsilyl)amide | 3.42 mmol, 1 M, 3.42 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methyl 2-chloro-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 1.37 mmol, 0.300 g | ClC=1N(C(C(=CC1C(=O)OC)F)=O)C | C8H7ClFNO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 5-fluoro-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.359 g, 75% | FC1=CC(=C(N(C1=O)C)NC1=C(C=C(C=C1)SC)F)C(=O)OC | C15H14F2N2O3S
